US07071175B1
(c) 2-(6-Amino-pyridin-3-ylmethyl)-3-mercapto-5-phenyl-pentanoic acid
Ethyl 3-(acetylsulfanyl)-2-({6-[(tert-butoxycarbonyl)amino]-3-pyridinyl}methyl)-5-phenylpentanoate (9 mg, 18.5 μmol) was dissolved in conc. HCl (1 mL) under argon. The solution was heated to reflux for 4.5 h. Concentration under reduced pressure yielded the title compound as the hydrochloride salt (6.4 mg, 98%) as a diastereomeric mixture 1:1.

reactant | Ethyl 3-(acetylsulfanyl)-2-({6-[(tert-butoxycarbonyl)amino]-3-pyridinyl}methyl)-5-phenylpentanoate | 18.5 μmol, 9 mg | C(C)(=O)SC(C(C(=O)OCC)CC=1C=NC(=CC1)NC(=O)OC(C)(C)C)CCC1=CC=CC=C1 | C26H34N2O5S
solvent | HCl | 1 mL | Cl | ClH
product | 2-(6-Amino-pyridin-3-ylmethyl)-3-mercapto-5-phenyl-pentanoic acid | NC1=CC=C(C=N1)CC(C(=O)O)C(CCC1=CC=CC=C1)S | C17H20N2O2S
